US04273931
Pyridine 2,5-dicarboxylic acid is reacted in a process similar to that utilized in the reaction of 3,4,5-trimethoxybenzoic acid set forth in the first two portions of the procedure of Example I so as to produce the corresponding mixed anhydride that is subjected to the catalytic hydrogatation to obtain pyridine 2,6-dimethanol.

reactant | Pyridine 2,5-dicarboxylic acid | N1=C(C=CC(=C1)C(=O)O)C(=O)O | C7H5NO4
reactant | 3,4,5-trimethoxybenzoic acid | COC=1C=C(C(=O)O)C=C(C1OC)OC | C10H12O5
product | pyridine 2,6-dimethanol | N1=C(C=CC=C1CO)CO | C7H9NO2
